US07893079B2
Step D. (R)-5-Amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
A solution of tert-butyl (R)-(2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl)carbamate from, Step C (13.4 g, 27.8 mmol) in MeOH (300 mL) was saturated with HCl (g). The mixture was resaturated with HCl (g) every 30 min until the starting material was consumed, and then concentrated in vacuo. The residue was dissolved in MeOH (150 mL) and treated with ethylenediamine (1.9 mL, 27.8 mmol) and 10 N sodium hydroxide (6 mL, 60 mmol) to adjust the mixture to pH 10. After 30 min, the mixture was diluted with H2O (400 mL) and extracted with CHCl3 (1 L). The organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The crude material was triturated with MeOH (35 mL) to give the title compound. MS: m/z=252 (M+1).

reactant | tert-butyl (R)-(2′-oxo-1′-{[2-(trimethylsilyl)ethoxy]methyl}-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-yl)carbamate | O=C1[C@]2(C=3C(=NC=CC3)N1COCC[Si](C)(C)C)CC1=CC=C(C=C1C2)NC(OC(C)(C)C)=O | C26H35N3O4Si
reactant | HCl | Cl | ClH
reactant | ethylenediamine | 27.8 mmol, 1.9 mL | C(CN)N | C2H8N2
reactant | sodium hydroxide | 60 mmol, 10 N, 6 mL | [OH-].[Na+]
solvent | MeOH | 300 mL | CO | CH4O
solvent | H2O | 400 mL | O | H2O
product | (R)-5-Amino-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | NC=1C=C2C[C@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H13N3O
